US04623650
4-Fluoro-3-phenylaniline
A mixture of 18.5 g of 4-fluoro-3-phenylnitrobenzene, 76.7 g of stannous chloride dihydrate and 150 ml concentrated hydrochloric acid was heated at 60° C. for 2 hours with stirring. After cooling, the resulting precipitate was dissolved in water and the mixture was basified with sodium carbonate. The mixture was extracted five times with chloroform and the combined organic extracts were dried and evaporated to yield the product as a pale brown oil (10.9 g, yield 68%) which was used without further purification. NMR (CDCl3, 60 MHz): 7.15 (m, 5H), 7.1-6.1 (m, 3H), 3.3 (br,s, 2H).

reactant | 4-fluoro-3-phenylnitrobenzene | 18.5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C12H8FNO2
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 4-Fluoro-3-phenylaniline | 10.9 g, yield 68% | FC1=C(C=C(N)C=C1)C1=CC=CC=C1 | C12H10FN
